US07585885B2
N-Methyl-5-oxazol-2-yl-N-propyl-isophthalamic acid
Stir a solution of N-methyl-5-oxazol-2-yl-N-propyl-isophthalamic acid methyl ester (225 mg, 0.74 mmol) in 1 N lithium hydroxide (3.0 mL, 3.0 mmol) and THF (3.0 mL) at room temperature for 3 h. Add water (40 mL) and extract with ethyl acetate (40 mL). Acidify the aqueous with 5 N HCl, extract with ethyl acetate (2×40 mL), dry (magnesium sulfate) and concentrate to give the title compound (213 mg, 100%).

reactant | N-methyl-5-oxazol-2-yl-N-propyl-isophthalamic acid methyl ester | 0.74 mmol, 225 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=1OC=CN1)=O | C16H18N2O4
reactant | lithium hydroxide | 3.0 mmol, 1 N, 3.0 mL | [OH-].[Li+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | N-Methyl-5-oxazol-2-yl-N-propyl-isophthalamic acid | 213 mg, 100% | CN(C(C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)=O)CCC | C15H16N2O4
